US07446216B2
4-Bromo-2-isopropylindan-1-one
To a solution of 99.1 g (0.49 mol) of diethyl isopropylmalonate in 500 ml of THF, 11.7 g (0.49 mol) of sodium hydride was added. This mixture was refluxed for 1 h and then cooled to room temperature. Next, 120 g (0.49 mol) of 2-bromobenzylbromide was added, and the resulting mixture was refluxed for 3 h. This mixture was cooled to ambient temperature and filtered through a glass frit (G2). The precipitate (NaBr) was additionally washed with 3×100 ml of THF. The combined filtrate was evaporated to dryness. The residue was dissolved in 400 ml of ethanol and 160 g of potassium hydroxide and 50 ml of water were added. The resulting mixture was refluxed for 4 h, and then 200 ml of water was added. Ethanol was distilled off at atmospheric pressure. The resulting aqueous solution was acidified with 5 M HCl to pH 1. The precipitate obtained at −30° C. was filtered off, washed with 100 ml of water, and dried in air. The dibasic acid was decarboxylated by heating for 2 h at 160° C. The product obtained was dissolved in 600 ml of dichloromethane, and 600 ml of SOCl2 was added. The mixture was refluxed for 3 h and then evaporated to dryness. The residue was dissolved in 270 ml of dry dichloromethane, and the solution obtained was added dropwise to a suspension of 136 g (1.02 mol) of AlCl3 in 1350 ml of dichloromethane for 1 h at 0° C., while vigorously stirring. Next, the reaction mixture was refluxed for 3 h, cooled to ambient temperature, poured on 500 cm3 of ice, and, finally, acidified with 8M HCl to pH 3. The organic layer was separated, the aqueous layer was washed with 3×300 ml of methyl-tert-butyl ether. The combined organic fractions were dried over K2CO3 and then evaporated to dryness. The product was isolated by vacuum distillation (bp 154-157° C./3 mm Hg). Yield 73.4 g (60%).

reactant | diethyl isopropylmalonate | 0.49 mol, 99.1 g | C(C)(C)C(C(=O)OCC)C(=O)OCC | C10H18O4
reactant | sodium hydride | 0.49 mol, 11.7 g | [H-].[Na+]
reactant | 2-bromobenzylbromide | 0.49 mol, 120 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | SOCl2 | 600 ml | O=S(Cl)Cl | Cl2OS
reactant | AlCl3 | 1.02 mol, 136 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | 8M | Cl | ClH
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1350 ml | ClCCl | CH2Cl2
product | 4-Bromo-2-isopropylindan-1-one | BrC1=C2CC(C(C2=CC=C1)=O)C(C)C | C12H13BrO
